Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: back pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old female with past medical history of chiari
malformation status post surgical decompression with chronic 
headaches, dysautonomia, who presented with 1 week of 
progressive lower back pain with associated radicular symptoms, 
admitted to medicine service.

Patient reports that 8 days prior to presentation, she noticed 
new lower back pain worse with bending.  While initially pain 
was minor, nonradiating, it subsequently progressed to radiating 
into her L buttock and L leg, and increased intensity over 
subsequent ___ days.  Pain went from being exacerbated with 
sitting to any ambulation.  On day of admission, patient was 
unable to walk down the stairs and so presented for additional 
care. 

Initially she went to OSH, where per her report she was given 
pain medications and told she could not get an MRI "until 
___.  She left that ED and came to ___ ED for additional 
workup. 

In the ED, initial VS were 98 58 118/72 16 100%RA. Exam was 
notable for good rectal tone. Labs were notable for K 3.6, Cr 
0.6, Mg 1.9, Phos 4.0; TSH 3.6; WBC 10.2, Hgb 12.5, Plt 236; INR 
1.2, PTT 26.3; urine tox screen positive for opiates.  Code cord 
was called and patient underwent MRI C/T/L spine with prelim 
read of "Alignment is normal. Vertebral body and intervertebral 
disc signal intensity appear normal. The spinal cord appears 
normal in caliber and configuration. There is no significant 
spinal canal or neural foraminal narrowing." 

Patient was given IV morphine 4mg x 2, PO Tylenol x3, IV 
ketorolac x2, 10mg PO diazepam, lidocaine patch x2, oxycodone 
10mg PO x2, IV Zofran x1.  Given lack of improvement in exam, 
patient was admitted to medicine for pain control. 

On arrival to the floor, patient confirmed above.  She denied 
any recent physical trauma.  Denied heavy lifting.  Reported 
that due to baseline headaches, her normal level of pain is 
___.  She has been especially stressed recently due to her 
divorce being finalized.  She reported that none of the 
interventions in the ED worked, although she did report sleeping 
after taking valium and so she was not able to test out its 
effectiveness.  Her goal is to be able to get up and move 
around, even if she has pain.  No new urinary or stool symptoms. 
 Denies fevers/chills, weight loss.  

Full 10 point review of systems positive where noted, otherwise 
negative. 

 
Past Medical History:
- Chiari malformation status post surgical decompression and C1 
laminectomy (___)
- Chronic headaches
- Dysautonomia of unclear etiology
- s/p excision of R wrist ganglion cyst
- ___ eye surgery 

 
Social History:
___
Family History:
Grandfather had neurosurgery for unclear reasons.  Denies 
history of other medical problems 

 
Physical Exam:
ADMISSION
VS: 97.8 PO 115 / 72 63 18 99 RA 
Gen: supine in bed, uncomfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, ___ strength x 4 extremities; R leg lift resulted 
in lower back pain without radicular component; negative L leg 
lift;  sensation to light touch grossly intact; 
Psych - occasionally tearful; appropriate

DISCHARGE
Vital signs reviewed, stable
GENERAL: Alert in NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is ___
GI: Abdomen soft, ___ to palpation.  Bowel
sounds present
GU: No suprapubic tenderness
MSK/Neuro: 
- ___ sensation to light touch intact
- lower extremity strength intact distal to hip joint
- hip flexor strength ___ on R and L, improved in that no 
longer
limited as much bu pain
- TTP over lower back, worse on L side, somewhat improved
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, tearful at times

 
Pertinent Results:
Pertinent data
 10.2 -> 7.8 -> 10.9 ->10.5

CRP wnl
TSH wnl
ESR wnl

XR pelvis/hip
No prominent degenerative changes or fractures. 
Bilateral SI joints appear relatively well preserved. 
Small focus of mineralization adjacent to the lateral aspect of
the left acetabulum may represent small os acetabuli versus
sequela of labral injury. 

MRI ___
IMPRESSION:  
Cervical, thoracic and lumbar spinal alignment is maintained 
with
no compromise of the cervical cord or nerve roots. 
No vertebral body fractures.  No epidural or paraspinal
collections.  No findings to suggest ___ discitis. 
Mild cervical and lumbar spondylosis without nerve root
compromise. 

MR ___
No labral tear.  No definite MR explanation for patient's hip 
pain. 
Previously seen small focus of mineralization along the lateral 
aspect of the left acetabulum likely represents a tiny os 
acetabuli. 

 
Brief Hospital Course:
#Acute back/hip pain, likely due to muscle strain/spasm
___ year old female with past medical history of chiari 
malformation status post surgical decompression with chronic 
headaches, dysautonomia, depression, PTSD, who presented with 1 
week of progressive lower back pain with associated radicular
symptoms. She reported onset after sexual activity and reports 
having had similar but less severe episodes in the past. There 
was initial concern for a cord process, but this was ruled out 
on spine MRI. Neurology saw the patient and did not feel there 
was a primary neurologic issue. Due to her progressive worsening 
over 1 week and severe pain limiting activity while she was in 
the hospital, additional ___ was conducted to rule out other 
causes of her pain. An MRI of the hip was unrevealing. Very low 
suspicion for infection, as her CRP and ESR were normal and her 
clinical picture was otherwise not suggestive. She gradually 
improved with ___ and with pharmacologic treatment, although 
remained in significant pain. She was discharged with a walker 
and prescription for outpatient ___. During the admission she was 
treated with nsaids, tylenol, tizanidine, and valium, but no 
opioids. She was briefly started on prednisone, but this was 
stopped due to worsening mood symptoms, which improved off 
prednisone. At discharge she was given a 1 week taper of valium, 
2 week taper of tizanadine, and safety instructions while taking 
these medications. She has ___ scheduled with her PCP. She 
expressed a concern that she might have ___, due to a 
coexistence with chiari malformations and a history of joint 
pains and joint laxity. Recommend she pursues further 
diagnostics as an outpatient for this. Of note it was also felt 
that psychosocial stressors and concomitant mental health issues 
likely heightened her symptoms. She was counseled by the team 
and seen by social work and was stable without any concern for 
decompensated psychiatric disease. 

=========================================
Transitional issues:

- f/u with PCP
- outpatient ___
- recommended tapering valium, then tizanidine, then nsaids
- patient requests evaluation for ___, which seems 
reasonable
- patient also need to establish with specialists for her chiari 
malformation (possibly in ___ or ___
- recommend continued mental health support in the outpatient 
setting
- once off pain meds for back pain could consider restarting 
fiorcet for chronic headaches if appropriate

=========================================
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ 1 TAB PO ___ PRN pain 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth ___ times daily 
as needed Disp #*240 Tablet Refills:*0 
2.  Diazepam 2 mg PO Q4H:PRN back pain 
Taper gradually over the next week 
RX *diazepam 2 mg 1 tab by mouth up to four times daily as 
needed Disp #*25 Tablet Refills:*0 
3.  Ibuprofen 800 mg PO Q8H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth up to three times 
daily as needed Disp #*90 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth daily as needed Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth up to twice daily 
as needed Disp #*60 Tablet Refills:*0 
6.  Tizanidine 4 mg PO TID 
RX *tizanidine 2 mg ___ tablet(s) by mouth three time daily Disp 
#*63 Tablet Refills:*0 
7. HELD- ___ 1 TAB PO ___ PRN pain 
 This medication was held. Do not restart 
___ until you have stopped other pain 
medications
8.Rolling walker
Diagnosis: back pain
Prognosis: good
Length of need: 13 months

9.Outpatient Physical Therapy
Diagnosis: back pain (ICD 10 M54.5)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Back and hip pain, likely muscle strain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital due to severe back and hip 
pain. Our evaluation suggests that this was likely due to muscle 
strain and spasm, although this remains uncertain. You improved 
slowly with physical therapy and several medications for pain, 
inflammation, and spasm. We recommend following up closely with 
your primary care doctor as an outpatient and considering 
further evaluation since as we discussed. ___ 
recommendations at discharge:

-tylenol can be taken up to 1000 mg 4 times daily
-ibuprofen can be taken up to 800 mg three times daily (ideally 
not for long term use)
-tizanadine can be taken 4 mg three times daily for one week, 
then 2 mg three times daily for one week, then stop
-diazepam can be taken 2 mg up to four times daily initially, 
with a gradual tapering over the next week

Additionally we will provide a referral for outpatient physical 
therapy.
 
Followup Instructions:
___